US08859768B2
A solution of N-(2,4-dimethoxybenzyl)-5-methyl-4-nitropyridin-2-amine 1-oxide (1.1 g, 3.5 mmol) in DCM (20 mL) and TFA (3 mL) was allowed to stir at rt for 4 h. The reaction mixture was concentrated and the residue was dissolved in DCM (20 mL). To this solution were added TEA (2.5 mL, 17.7 mmol) and acetic anhydride (0.4 g, 4.3 mmol). The reaction mixture was allowed to stir at rt overnight and then filtered to give N-(5-methyl-4-nitro-1-oxidopyridin-2-yl)acetamide (0.73 g, 98%) which was used without further purification.

reactant | N-(2,4-dimethoxybenzyl)-5-methyl-4-nitropyridin-2-amine 1-oxide | 3.5 mmol, 1.1 g | COC1=C(CNC=2[N+](=CC(=C(C2)[N+](=O)[O-])C)[O-])C=CC(=C1)OC | C15H17N3O5
reactant | acetic anhydride | 4.3 mmol, 0.4 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-(5-methyl-4-nitro-1-oxidopyridin-2-yl)acetamide | 0.73 g, 98% | CC=1C(=CC(=[N+](C1)[O-])NC(C)=O)[N+](=O)[O-] | C8H9N3O4
